US09328096B2
Methyl 2,4-dichloro-5-(5-fluoropyridin-2-yl)benzoate
To the solution of methyl 2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate in anhydrous THF (Preparation 45, 10 mL, 1.61 g, 4.88 mmol) was added 2-bromo-5-fluoropyridine (856 mg, 4.88 mmol), sodium carbonate (1.55 g, 14.59 mmol) and water (2 mL). The reaction was degassed with nitrogen for 15 minutes followed by the addition of Pd(PPh3)4 (280 mg, 0.244 mmol) with further degassing for 5 minutes. The reaction was heated to reflux under a nitrogen atmosphere for 2 hours. The reaction was concentrated in vacuo and the residue partitioned between EtOAc (35 mL) and water (35 mL). The organic layer was dried over magnesium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 5-20% EtOAc in heptanes to afford the title compound as a white solid (1 g, 67%).

reactant | methyl 2,4-dichloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | ClC1=C(C(=O)OC)C=C(C(=C1)Cl)B1OC(C(O1)(C)C)(C)C | C14H17BCl2O4
reactant | THF | 4.88 mmol, 10 mL, 1.61 g | C1CCOC1 | C4H8O
reactant | 2-bromo-5-fluoropyridine | 4.88 mmol, 856 mg | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | sodium carbonate | 14.59 mmol, 1.55 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.244 mmol, 280 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | Methyl 2,4-dichloro-5-(5-fluoropyridin-2-yl)benzoate | 1 g, 67% | ClC1=C(C(=O)OC)C=C(C(=C1)Cl)C1=NC=C(C=C1)F | C13H8Cl2FNO2
